US08383683B2
To an ice cooled solution of the above crude 2,4-dichloro-1-methylsulfanylmethoxy-benzene (17 g) in DCM (200 mL) was added portion wise m-CPBA (13.8 g, 79.75 mmol) during 30 min. The resulting mixture was allowed to reach room temperature and stirring was continued for 16 hrs. The organic phase was washed with water (2×100 mL), 1N NaOH until pH 6-7, dried (Na2SO4), filtered and evaporated in vacuo. The residue was purified on silicagel (10 cm) using first heptane (1 L) followed by EtOAc:heptane (1:1) (1 L) and finally EtOAc as eluents. Pure fractions were collected from the pure EtOAc phase and evaporated in vacuo affording 10.1 g (69%) of 2,4-dichloro-1-methanesulfinylmethoxy-benzene as a solid.

reactant | 2,4-dichloro-1-methylsulfanylmethoxy-benzene | 17 g | ClC1=C(C=CC(=C1)Cl)OCSC | C8H8Cl2OS
reactant | m-CPBA | 79.75 mmol, 13.8 g | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
solvent | DCM | 200 mL | C(Cl)Cl | CH2Cl2
product | 2,4-dichloro-1-methanesulfinylmethoxy-benzene | 10.1 g, 69% | ClC1=C(C=CC(=C1)Cl)OCS(=O)C | C8H8Cl2O2S
